US07674818B2
A slurry of 0.413 g (1.85 mmol) 1-benzyl-5-hydroxy-1H-indole, 0.3 ml (2.2 mmol) 3-chloro-4-fluorobenzotrifluoride, and 1.0 g (3.0 mmol) Cs2Cb3 in 12 ml DMF was heated to 130° C. with stirring for 16 hr. The solution was allowed to cool and then filtered to remove Cs2CO3. The solution was concentrated under vacuum and chromatographed on silica using 5-7% EtOAc-hexane to afford 0.51 g 1-benzyl-5-(2-chloro-4-trifluoromethyl-phenoxy)-1H-indole as an oil.

reactant | 1-benzyl-5-hydroxy-1H-indole | 1.85 mmol, 0.413 g | C(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)O | C15H13NO
reactant | 3-chloro-4-fluorobenzotrifluoride | 2.2 mmol, 0.3 ml | ClC=1C=C(C=CC1F)C(F)(F)F | C7H3ClF4
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
product | 1-benzyl-5-(2-chloro-4-trifluoromethyl-phenoxy)-1H-indole | 0.51 g | C(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)OC1=C(C=C(C=C1)C(F)(F)F)Cl | C22H15ClF3NO
